US06342765B1
Tetrakis(triphenylphosphine) palladium (9 g; 7.8 mmol) and ethanol (780 ml) was added to a suspension of methyl 4-methyl-2-trifluoromethanesulphonyloxybenzoate (58 g; 0.195 mol), 2M aqueous solution of sodium carbonate (250 ml; 0.5 mol), 4-fluorophenylboronic acid (30 g ; 0.214 mol) and lithium chloride (16.5 g ; 0.39 mol) in toluene (1.65 ml), under an argon atmosphere, The mixture was refluxed for 4 hours, diluted with ethyl acetate (1 l) and washed with aqueous sodium hydroxide solution 1N (1 l). The organic phase was evaporated and the residue purified by flash column chromatography using ethyl acetatelpetroleum ether (95:5) to give methyl 2-(4-fluorophenyl)-4-methylbenzoate (46.8 g; 99%).

reactant | methyl 4-methyl-2-trifluoromethanesulphonyloxybenzoate | 0.195 mol, 58 g | CC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F | C10H9F3O5S
reactant | sodium carbonate | 0.5 mol, 250 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenylboronic acid | 0.214 mol, 30 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | lithium chloride | 0.39 mol, 16.5 g | [Cl-].[Li+]
solvent | toluene | 1.65 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium | 7.8 mmol, 9 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 780 ml | C(C)O | C2H6O
product | methyl 2-(4-fluorophenyl)-4-methylbenzoate | 46.8 g, 99% | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C | C15H13FO2
